US09284323B2
To a solution of trifluoro-methanesulfonic acid 1-chloro-3-methyl-naphthalen-2-yl ester (14.75 g, 45.43 mmol), tributyl(vinyl)tin (14.59 mL, 49.97 mmol) and lithium chloride (5.78 g, 136.29 mmol) was added dichlorobis(triphenylphosphine) palladium(II) under argon. The reaction mixture was heated at 50° C. for 20 h, then heated at 90° C. for 8 h. The reaction mixture was than cooled to room temperature, diluted with ethyl acetate, washed with 5% lithium chloride solution (3×), brine and dried (MgSO4), filtered and then concentrated and purified by flash column chromatography (silica gel, 0 to 10% ethyl acetate/hexanes) to give 1-chloro-3-methyl-2-vinyl-naphthalene contaminated by organotin. The residue was dissolved in dichloromethane and stirred with 10% KF solution overnight. The resulting white mixture was filtered through a pad of Celite and extracted with dichloromethane (2×). The organic layer was concentrated and purified by flash column chromatography (silica gel, 0 to 10% ethyl acetate/hexanes) to give 1-chloro-3-methyl-2-vinyl-naphthalene. 1H NMR (400 MHz, CDCl3) δ 8.28 (d, J=8.2 Hz, 1H), 7.73 (d, J=8.2 Hz, 1H), 7.59 (s, 1H), 7.59-7.48 (m, 2H), 6.90 (dd, J=18.0, 11.8 Hz, 1H), 5.73 (d, J=11.8 Hz, 1H), 5.53 (d, J=18.0 Hz, 1H), 2.50 (s, 3H).

reactant | trifluoro-methanesulfonic acid 1-chloro-3-methyl-naphthalen-2-yl ester | 45.43 mmol, 14.75 g | ClC1=C(C(=CC2=CC=CC=C12)C)OS(=O)(=O)C(F)(F)F | C12H8ClF3O3S
reactant | tributyl(vinyl)tin | 49.97 mmol, 14.59 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | lithium chloride | 136.29 mmol, 5.78 g | [Cl-].[Li+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-chloro-3-methyl-2-vinyl-naphthalene | ClC1=C(C(=CC2=CC=CC=C12)C)C=C | C13H11Cl
